US07790747B2
A solution of 4-pyridinecarboxaldehyde (333 mg, 3.11 mmol) and (carboethoxy-methylene)triphenylphosphorane (1.19 g, 3.42 mmol) in toluene (8.0 ml) was stirred at 90° C. under nitrogen for 3 hours. Once cooled, the solvent was removed under reduced pressure, the crude product was acidified with 1M HCl (25 ml) and the solution was washed with Et2O (25 ml×2). The aqueous solution was made basic with 1M NaOH and extracted with CH2Cl2 (25 ml×2). The combined organic solution was dried (Na2SO4), filtered and concentrated under reduced pressure, giving (E)-3-pyridin-4-yl-acrylic acid ethyl ester as a white solid (238 mg, 1.34 mmol, 43%). 1H NMR (CDCl3) δ 1.35 (t, 3H, J=7.2 Hz), 4.29 (q, 2H, J=7.2 Hz), 6.59 (d, 1H, J=16.2 Hz), 7.37 (d, 2H, J=6.1 Hz), 7.60 (d, 1H, J=16.2 Hz), 8.66 (d, 2H, J=6.1 Hz).

reactant | 4-pyridinecarboxaldehyde | 3.11 mmol, 333 mg | N1=CC=C(C=C1)C=O | C6H5NO
reactant | (carboethoxy-methylene)triphenylphosphorane | 3.42 mmol, 1.19 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 8.0 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-pyridin-4-yl-acrylic acid ethyl ester | 1.34 mmol, 238 mg, 43% | C(C)OC(\C=C\C1=CC=NC=C1)=O | C10H11NO2
